US07435815B2
[(6-Amino-pyridin-3-yl)-(4-tert-butyl-benzenesulfonyl)-amino]-acetic acid
prepared by reaction of N-[5-(4-tert-butyl-benzenesulfonylamino)-pyridin-2-yl]-acetamide with methyl bromoacetate

reactant | N-[5-(4-tert-butyl-benzenesulfonylamino)-pyridin-2-yl]-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=CC(=NC1)NC(C)=O | C17H21N3O3S
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | [(6-Amino-pyridin-3-yl)-(4-tert-butyl-benzenesulfonyl)-amino]-acetic acid | NC1=CC=C(C=N1)N(S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)CC(=O)O | C17H21N3O4S
